US04546101
A mixture of benzhydryl 7-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-ethoxyiminoacetamido]-3-chloromethyl-3-cephem-4-carboxylate (syn isomer) (36.7 g) in ethyl acetate (600 ml), triphenyl phosphine (18.8 g) and sodium iodide (1 g) were boiled under reflux for 100 minutes. The precipitates were collected by filtration and washed with ethyl acetate to give [4-benzhydryloxycarbonyl-7-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-ethoxyiminoacetamido]-3-cephem-3-ylmethyl]triphenylphosphonium chloride (syn iosmer) (31.1 g).

reactant | benzhydryl 7-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-ethoxyiminoacetamido]-3-chloromethyl-3-cephem-4-carboxylate | 36.7 g | NC1=NC(=NS1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CCl)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NOCC | C27H25ClN6O5S2
reactant | triphenyl phosphine | 18.8 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | sodium iodide | 1 g | [I-].[Na+]
solvent | ethyl acetate | 600 ml | C(C)(=O)OCC | C4H8O2
product | [4-benzhydryloxycarbonyl-7-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-ethoxyiminoacetamido]-3-cephem-3-ylmethyl]triphenylphosphonium chloride | 31.1 g | [Cl-].C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C1=C(CS[C@H]2N1C(C2NC(C(=NOCC)C2=NSC(=N2)N)=O)=O)C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | InChI=1S/C45H39N6O5PS2.ClH/c1-2-55-49-36(40-48-45(46)59-50-40)41(52)47-37-42(53)51-38(44(54)56-39(30-18-8-3-9-19-30)31-20-10-4-11-21-31)32(29-58-43(37)51)28-57(33-22-12-5-13-23-33,34-24-14-6-15-25-34)35-26-16-7-17-27-35;/h3-27,37,39,43H,2,28-29H2,1H3,(H2-,46,47,48,50,52);1H/t37?,43-;/m1./s1
